US05631363
A solution of 1.2 g of 3-{(2R)-2-[(3S,4R)-1-allyloxycarbonylmethyl-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one in 6 ml of tetrahydrofuran is added dropwise to 4.4 ml of 1M sodium bis(trimethylsilyl)amide solution (solvent:tetrahydrofuran) at a temperature from -20° C. to -30° C. during one minute. 261 mg of trimethylsilyl chloride are added thereto at -50° C. and the mixture is stirred for 2 minutes. Then, 645 mg of diphenylphosphoryl chloride are added thereto at -50° C. and the mixture is stirred for 2 hours at 0° C. The reaction mixture is poured into 50 ml of 0.2M phosphate buffer (pH 7.0) and the mixture is extracted with ethyl acetate. The extract is washed, dried and evaporated to remove the solvent. Isopropyl ether is added to the residue and the resulting precipitates of 355 mg of spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one are removed by filtration. The filtrate is condensed to obtain 1.04 g of (1R,5R,6S)-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-1-methyl-2-diphenylphosphoryloxy-carbapen-2-em-3-carboxylic acid-allyl ester as syrup.

reactant | 3-{(2R)-2-[(3S,4R)-1-allyloxycarbonylmethyl-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one | 1.2 g | C(C=C)OC(=O)CN1C([C@@H]([C@H]1[C@H](C(=O)N1C(C2=C(OC13CCCCC3)C=CC=C2)=O)C)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C32H46N2O7Si
reactant | sodium bis(trimethylsilyl)amide | 1M, 4.4 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | trimethylsilyl chloride | 261 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | diphenylphosphoryl chloride | 645 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | phosphate | 0.2M, 50 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | (1R,5R,6S)-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-1-methyl-2-diphenylphosphoryloxy-carbapen-2-em-3-carboxylic acid-allyl ester | 1.04 g | C(C=C)OC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C)OP(=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H40NO6PSi
